US05780483
Preparation of N-(2-hydroxy-5-nitrophenyl)-N'-(3-methoxy-2-thienyl)urea
To a solution of 3-methoxy-2-thiophene carboxylic acid (200 mg, 1.27 mnmol) in benzene, (PhO)2PON3 (0.33 mL), 2-amino-4-nitrophenol (195.7 mg, 1.27 mmol) and triethylamine (1.1 equiv., 0.25 mL) were added. The reaction mixture was stirred at reflux overnight. The reaction mixture was partitioned between 5% citric acid and ethyl acetate. The organic layer was separated and the aqueous layer was extracted three times with ethyl acetate. The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure. Chromatography of the resulting solid on silica gel (hexane:ethyl acetate; 1:1) gave a solid product (160 mg, 41%). mp: 172.6°-173.0° C.; 1H NMR (CD3OD/CDCl3): d 8.96 (d, 1H, J=2.5 Hz), 7.74 (dd, 1H, J=5.0 Hz and J=1.25 Hz), 6.82 (d, 1H, J=7.5 Hz), 6.76 (s, 2H), 3.80 (s, 3H); EI-MS m/z 309 (M+H)+ ; Anal. (C12H11N3O5S) C, H, N.

reactant | 3-methoxy-2-thiophene carboxylic acid | 200 mg | COC1=C(SC=C1)C(=O)O | C6H6O3S
reactant | 2-amino-4-nitrophenol | 1.27 mmol, 195.7 mg | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | triethylamine | 0.25 mL, 1.1 equiv. | C(C)N(CC)CC | C6H15N
reactant | (PhO)2PON3 | 0.33 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(2-hydroxy-5-nitrophenyl)-N'-(3-methoxy-2-thienyl)urea | 160 mg, 41% | OC1=C(C=C(C=C1)[N+](=O)[O-])NC(=O)NC=1SC=CC1OC | C12H11N3O5S
